US07320992B2
Step B: Preparation of 3-(3-nitro-5-trifluoromethyl-phenoxy)-tetrahydro-furan
3-Hydroxy-5-nitrobenzotrifluoride (5 g, 24.1 mmol, 1 eq), (S)-3-hydroxytetrahydrofuran (1.9 mL, 24.1 mmol, 1 eq), PPh3 (6.3 g, 24.1 mmol, 1 eq) were dissolved in 43 mL of THF. The solution was cooled to −20° C. DIAD (4.8 mL, 24.6 mmol, 1.02 eq) was added in 22 mL of THF over the course of 2 h while the temperature was maintained between −10 and −20° C. After the addition was complete the reaction was stirred for 3 days at RT. The solvent was removed in vacuo. The residue was stirred with ˜250 mL of hexane for 45 min during which time triphenylphosphine oxide precipitated as a white solid. The solid was removed by filtration and the filtrate was washed twice with 2 N NaOH and once with brine. After drying over Na2SO4 the solution was filtered and the solvent removed under reduced pressure. The crude material was purified by chromatography on a Biotage system eluting with a gradient of 5 to 15% EtOAc:hexane to yield the desired compound.

reactant | 3-Hydroxy-5-nitrobenzotrifluoride | 24.1 mmol, 5 g, 1 eq | OC=1C=C(C=C(C1)[N+](=O)[O-])C(F)(F)F | C7H4F3NO3
reactant | (S)-3-hydroxytetrahydrofuran | 24.1 mmol, 1.9 mL, 1 eq | O[C@@H]1COCC1 | C4H8O2
reactant | PPh3 | 24.1 mmol, 6.3 g, 1 eq | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 24.6 mmol, 4.8 mL, 1.02 eq | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 43 mL | C1CCOC1 | C4H8O
solvent | THF | 22 mL | C1CCOC1 | C4H8O
product | 3-(3-nitro-5-trifluoromethyl-phenoxy)-tetrahydro-furan | [N+](=O)([O-])C=1C=C(OC2COCC2)C=C(C1)C(F)(F)F | C11H10F3NO4
